US09303033B2
Note: THF was degassed with a stream of N2 for 10 min. in a separate flask. Tert-butyl cyclopropyl(2-(methylthio)pyrazolo[1,5-a][1,3,5]triazin-4-yl)carbamate (100 mg, 0.31 mmol), 3-(trifluoromethoxy)phenyl boronic acid (154 mg, 0.74 mmol), tri(2-furyl)phosphine (86 mg, 0.37 mmol), copper(I) thiophene-2-carboxylate (167 mg, 0.88 mmol), Pd2dba3 (24 mg, 0.03 mmol) were combined. The flask was evacuated and backfilled with N2. THF (3.7 mL) was added and the reaction was heated to 50° C. for 5 d. The solution was diluted with Et2O (40 mL) and washed with 10% NH4OH (3×30 mL). The organic layer was dried over MgSO4, filtered and concentrated in vacuo. The solid residue was triturated with Et2O and filtered. The filtrate was concentrated in vacuo and purified via flash column chromatography (2.5-5% EtOAc/hexanes) to afford tert-butyl cyclopropyl(2-(3-(trifluoromethoxy)phenyl)pyrazolo[1,5-a][1,3,5]triazin-4-yl)carbamate (116 mg, 85%). LCMS (ES): >95% pure, m/z 436 [M+1]+.

reactant | Tert-butyl cyclopropyl(2-(methylthio)pyrazolo[1,5-a][1,3,5]triazin-4-yl)carbamate | 0.31 mmol, 100 mg | C1(CC1)N(C(OC(C)(C)C)=O)C1=NC(=NC=2N1N=CC2)SC | C14H19N5O2S
reactant | 3-(trifluoromethoxy)phenyl boronic acid | 0.74 mmol, 154 mg | FC(OC=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O3
reactant | tri(2-furyl)phosphine | 0.37 mmol, 86 mg | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
catalyst | copper(I) thiophene-2-carboxylate | 0.88 mmol, 167 mg | S1C(=CC=C1)C(=O)[O-].[Cu+]
catalyst | Pd2dba3 | 0.03 mmol, 24 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | tert-butyl cyclopropyl(2-(3-(trifluoromethoxy)phenyl)pyrazolo[1,5-a][1,3,5]triazin-4-yl)carbamate | 116 mg, 85% | C1(CC1)N(C(OC(C)(C)C)=O)C1=NC(=NC=2N1N=CC2)C2=CC(=CC=C2)OC(F)(F)F | C20H20F3N5O3
